US08349880B2
Allyl 2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydrobromide (1.42 g, 3.54 mmol, from preparation U) and 6-chloro-2-(4-(trifluoromethoxy)phenyl)hexanoic acid (1.375 g, 4.43 mmol, from preparation AY) were coupled [N-methylmorpholine (2.00 mL, 17.7 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.556 mL, 17.7 mmol) using a procedure analogous to Step A of Example 13. After purification by silica gel column chromatography, 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (570 mg, 1.03 mmol, 29% yield) as a foamy solid. LC-MS (M+H)+ 554.3.

reactant | Allyl 2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydrobromide | 3.54 mmol, 1.42 g | Br.FC1=C(C=C(C(=C1)N1N=C(N=C1)C)OC)NC(=N)SCC=C
reactant | 6-chloro-2-(4-(trifluoromethoxy)phenyl)hexanoic acid | 4.43 mmol, 1.375 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C13H14ClF3O3
reactant | N-methylmorpholine | 17.7 mmol, 2.00 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 17.7 mmol, 0.556 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 1.03 mmol, 570 mg, 29% yield | ClCCCCC(C1=CC=C(C=C1)OC(F)(F)F)C1=NC(=NN1)NC1=C(C=C(C(=C1)OC)N1N=C(N=C1)C)F | C24H24ClF4N7O2
